US07629336B2
Biphenyl-2-ylcarbamic Acid 1-{2-[(4-Formylbenzoyl)methylamino]ethyl}piperidin-4-yl Ester
To a three-necked 1-L flask was added 4-carboxybenzaldehyde (4.77 g, 31.8 mmol), EDC (6.64 g, 34.7 mmol), HOBT (1.91 g, 31.8 mmol), and DCM (200 mL). When the mixture was homogenous, a solution of biphenyl-2-ylcarbamic acid 1-(2-methylaminoethyl)piperidin-4-yl ester (10 g, 31.8 mmol; prepared as in Preparation 4) in DCM (100 mL) was added slowly. The reaction mixture was stirred at room temperature for 16 hours and then washed with water (1×100 mL), 1N HCl (5×60 mL), 1N NaOH (1×100 mL) brine (1×50 mL), dried over sodium sulfate, filtered and concentrated to afford 12.6 g of the title compound (92% yield; 85% purity based on HPLC). MS m/z: [M+H+] calcd for C29H31N3O4, 486.2; found, 486.4. Rf=3.12 min (10-70 ACN:H2O, reverse phase HPLC).

reactant | 4-carboxybenzaldehyde | 31.8 mmol, 4.77 g | C(=O)(O)C1=CC=C(C=O)C=C1 | C8H6O3
reactant | EDC | 34.7 mmol, 6.64 g
reactant | HOBT | 31.8 mmol, 1.91 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | biphenyl-2-ylcarbamic acid 1-(2-methylaminoethyl)piperidin-4-yl ester | 31.8 mmol, 10 g | CNCCN1CCC(CC1)OC(NC1=C(C=CC=C1)C1=CC=CC=C1)=O | C21H27N3O2
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 200 mL | C(Cl)Cl | CH2Cl2
product | Biphenyl-2-ylcarbamic Acid 1-{2-[(4-Formylbenzoyl)methylamino]ethyl}piperidin-4-yl Ester | 12.6 g, 92% yield | C(=O)C1=CC=C(C(=O)CNCCN2CCC(CC2)OC(NC2=C(C=CC=C2)C2=CC=CC=C2)=O)C=C1 | C29H31N3O4
